US07754737B2
To a solution of 3-((S)-1-((R)-1-(tert-butoxycarbonyl)piperidin-3-yl)-1-hydroxy-5-methoxypentyl)benzoic acid (51.0 mg, 0.12 mmol) in CH2Cl2 (2 mL) was added oxalyl chloride (17.3 mg, 0.13 mmol) followed by DMF (1 drop). The resulting mixture was stirred until gas evolution ceased (˜10 min), and completion of reaction was confirmed by LC-MS. To the reaction flask was added excess NH4OH, and reaction was stirred at rt for another 10 min. Water (5 mL) was added and organic layer was separated. The aqueous layer was extracted with CH2Cl2 (2×5 mL) and the combined organic layers were washed with brine (5 mL), dried over Na2SO4, and concentrated under vacuum to give (R)-tert-butyl 3-((S)-1-(3-carbamoylphenyl)-1-hydroxy-5-methoxypentyl)piperidine-1-carboxylate (26.2 mg, 52%). MS m/z 443 (M+Na+).

reactant | 3-((S)-1-((R)-1-(tert-butoxycarbonyl)piperidin-3-yl)-1-hydroxy-5-methoxypentyl)benzoic acid | 0.12 mmol, 51.0 mg | C(C)(C)(C)OC(=O)N1C[C@@H](CCC1)[C@](CCCCOC)(O)C=1C=C(C(=O)O)C=CC1 | C23H35NO6
reactant | oxalyl chloride | 0.13 mmol, 17.3 mg | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | NH4OH | [NH4+].[OH-]
reactant | Water | 5 mL | O | H2O
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | 1 drop | CN(C)C=O | C3H7NO
product | (R)-tert-butyl 3-((S)-1-(3-carbamoylphenyl)-1-hydroxy-5-methoxypentyl)piperidine-1-carboxylate | 26.2 mg, 52% | C(N)(=O)C=1C=C(C=CC1)[C@@](CCCCOC)(O)[C@H]1CN(CCC1)C(=O)OC(C)(C)C | C23H36N2O5
